US07662830B2
1. 2-Isopropyl-4-trimethylstannanyl-pyridine
To a cold suspension (0° C.) of Na (25% in toluene, 10 g, 104 mmol) in DME (100 mL) add a solution of trimethyltin chloride (9.4 g, 47.4 mmol) in DME (20 mL) dropwise. Stir the mixture at 0° C. for 3 h followed by addition of the solution of cold (0° C.) 4-chloro-2-isopropyl-pyridine (Comins & Mantlo (1985) J. Org. Chem. 50:4410-4411) (4.9 g, 31.6 mmol) in DME (20 mL). Stir the mixture at 0° C. for 2 h and warm to room temperature. Filter, concentrate the filtrate, and dilute the residue with ether. Filter and concentrate the filtrate. Distil the residue (bp 75-80° C. at 1 mm Hg) to afford the title compound as a light oil.

reactant | trimethyltin chloride | 47.4 mmol, 9.4 g | C[Sn](C)(C)Cl
reactant | 4-chloro-2-isopropyl-pyridine | 31.6 mmol, 4.9 g | ClC1=CC(=NC=C1)C(C)C | C8H10ClN
solvent | DME | 100 mL | COCCOC | C4H10O2
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | DME | 20 mL | COCCOC | C4H10O2
product | 2-Isopropyl-4-trimethylstannanyl-pyridine | C(C)(C)C1=NC=CC(=C1)[Sn](C)(C)C | InChI=1S/C8H10N.3CH3.Sn/c1-7(2)8-5-3-4-6-9-8;;;;/h4-7H,1-2H3;3*1H3;
